US07709509B2
40.0 g 4-Methoxybenzamide was dissolved in 400 ml ethanol. The mixture was warmed to 50° C. and 48.8 ml ethyl-2-chloroacetoacetate was added in one portion. The resulting mixture was refluxed for four days. The reaction mixture was cooled and the solvent removed under reduced pressure. The resulting residue was purified by flash chromatography on silica gel to obtain 23.5 g 2-(4-Methoxy-phenyl)-4-methyl-oxazole-5-carboxylic acid ethyl ester as a solid.

reactant | 4-Methoxybenzamide | 40.0 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | ethyl-2-chloroacetoacetate | 48.8 ml | C(C)OC(C(C(=O)C)Cl)=O | C6H9ClO3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-(4-Methoxy-phenyl)-4-methyl-oxazole-5-carboxylic acid ethyl ester | 23.5 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)C | C14H15NO4
